US05130313
1-(3-Chloropropyl)-4-phenylpiperidine can be obtained as follows: a solution of 4-phenylpiperidine (8 g) and of 1-bromo-3-chloropropane (20 cc) in acetonitrile (80 cc) is stirred at 25° C. for 24 hours with potassium carbonate (28 g). The mixture is filtered and is then concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.06-0.2-mm particle size, 3-cm diameter, 25-cm height) and eluted with a mixture of cyclohexane and ethyl acetate (50--50 by volume), 60-cc fractions being collected. Fractions 6 to 10 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 1-(3-Chloropropyl)-4-phenylpiperidine (8 g) is obtained in the form of oil.

reactant | 4-phenylpiperidine | 8 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 1-bromo-3-chloropropane | 20 cc | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 cc | C(C)#N | C2H3N
product | 1-(3-Chloropropyl)-4-phenylpiperidine | 8 g | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
